US04046876
To 65.0 g of benzylamine in 100 ml of benzene was added with stirring 25.0 g of tert-butyl 2-chloropropionate over a period of 30 minutes, while maintaining the temperature at 30°-70° C. The reaction mixture was held at 70° C. for an additional one hour. At the end of this period, the reaction mixture was taken up in 70 ml of 2N NaOH solution and 80 ml of benzene, transferred into a separatory funnel and well shaken. The benzene solution was separated, washed with water, dried over anhydrous sodium sulfate and filtered. After evaporation of benzene, the residue was distilled under reduced pressure to give 33.2 g (90.0 percent) of N-benzylalanine tert-butyl ester, B.P. 164° C./14 mmHg.

reactant | benzylamine | 65.0 g | C(C1=CC=CC=C1)N | C7H9N
reactant | tert-butyl 2-chloropropionate | 25.0 g | ClC(C(=O)OC(C)(C)C)C | C7H13ClO2
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | NaOH | 2N, 70 ml | [OH-].[Na+]
solvent | benzene | 80 ml | C1=CC=CC=C1 | C6H6
product | N-benzylalanine tert-butyl ester | 33.2 g, 90.0 percent | C(C)(C)(C)OC([C@@H](NCC1=CC=CC=C1)C)=O | C14H21NO2
